US08008307B2
Step b: tert-Butyl [(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]carbamate
A mixture of tert-butyl [(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-carbamate (680. mg, 2.73 mmol), DMF (21.1), barium monoxide (5.02 g, 32.7 mmol), barium hydroxide (2.80 g, 16.4 mmol) and iodomethane (1.70 mL, 27.3 mmol) was stirred overnight. LC/MS showed no starting material. The reaction was quenched via addition of a saturated solution of NaHCO3 and was extracted with DCM. The organic layer was washed with H2O (3×), dried over sodium sulfate and concentrated in vacuo. The residue was purified via silica gel chromatography eluting with a gradient of 0 to 50% EtOAc in hexanes to afford the title compound (178 mg, 25%). LC/MS: Rt=1.24 min, ES+ 264 (AA standard).

reactant | tert-butyl [(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]-carbamate | 2.73 mmol | O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC(OC(C)(C)C)=O | C14H19NO3
reactant | barium monoxide | 32.7 mmol, 5.02 g | [O-2].[Ba+2]
reactant | barium hydroxide | 16.4 mmol, 2.80 g | [OH-].[Ba+2].[OH-]
reactant | iodomethane | 27.3 mmol, 1.70 mL | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-Butyl [(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]carbamate | 178 mg, 25% | CO[C@@H]1[C@@H](C2=CC=CC=C2C1)NC(OC(C)(C)C)=O | C15H21NO3
